US09388189B2
(S)-2-(1-((5-(2-Hydroxy-5-methylphenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one
(S)-2-(1-((5-(2-Methoxy-5-methylphenyl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (45 mg, 0.07 mmol) was treated with boron tribromide (1M in dichloromethane, 1.6 mL, 1.6 mmol) and a solution of ammonia (7N in methanol, 1.6 mL, 11.2 mmol) according to the method described in Example 41 to give 23.6 mg (72% yield) of the title. Purity 97%.

reactant | (S)-2-(1-((5-(2-Methoxy-5-methylphenyl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.07 mmol, 45 mg | COC1=C(C=C(C=C1)C)C1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C | C35H41N7O3Si
reactant | boron tribromide | 1.6 mmol, 1M, 1.6 mL | B(Br)(Br)Br | BBr3
reactant | ammonia | 11.2 mmol, 7N, 1.6 mL | N | H3N
product | (S)-2-(1-((5-(2-Hydroxy-5-methylphenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 72% yield | OC1=C(C=C(C=C1)C)C1=CNC=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C | C28H25N7O2
